Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Clotted dialysis fistula
 
Major Surgical or Invasive Procedure:
___  AV FISTULOGRAM with mechanical and chemical 
thrombectomy

 
History of Present Illness:
___ is a ___ year old woman with a history of ESRD ___ 
IDDM (on HD ___, HCV, who presented for evaluation of left 
arm fistula that was clotted since yesterday at HD. Because of 
this, she was unable to complete HD. 

In the ED, initial VS were T 97.8 HR 74 BP 163/70 RR 18 O2 93% 
on RA

Exam was unremarkable in the ED. 
  
Labs showed normal CBC. CHEM7 consistent with dialysis patient. 

Imaging showed  
1. Complete thrombosis of the left upper extremity AV graft to 
the level of 
the outflow vein. 
2. Outflow vein stenosis within the previously placed stent with 
improvement 
following angioplasty to 8 mm. 
3. Satisfactory appearance of the arterial anastomosis. 
  
IMPRESSION:  
  
Satisfactory restoration of flow following chemical and 
mechanical 
thrombolysis with a good angiographic and clinical result. 

Received nothing  

Transfer VS were stable

___ and nephrology were consulted and recommended fistulogram and 
admission for HD in the morning. 
 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports feeling well. 

REVIEW OF SYSTEMS:  
(+) Negative
(-) Fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
 
All other 10-system review negative in detail.  

 
Past Medical History:
- ESRD due to HTN and DM on HD ___ (LUE AV graft placed 
___ complicated by multiple episodes of fistula 
thrombosis  
-- ___: Thrombectomy, angioplasty (Faintouch)  
-- ___: Angioplasty (___)  
-- ___: fistulogram with thrombectomy  
-- ___: Fistulogram  
-- ___: Fistulogram and thrombectomy  
- DMII  
- Hypothyroidism  
- Hyperparathyroidism  
- Hypertension  
- Hepatitis C  
- GERD  
- Osteoarthritis  
- Osteomyelitis  
- Chronic Back Pain  
- Venous Stasis  
- Psoriasis  
- Substance Abuse on Methadone  
- Obesity  
- Cataracts  
 
Social History:
___
Family History:
Denies family history of renal disease.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 98.1 BP 190/80 HR 87 RR 18 O2 97% On RA 
GENERAL: NAD, pleasant elderly woman  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: Supple 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: nondistended nontender in all quadrants, obese 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose, tree barking of lower extremity 
bilateral, covered in stockings. 
NEURO: CN II-XII grossly intact  
SKIN: warm, dry, intact

DISCHARGE PHYSICAL EXAM: 
VS: T 97.9 BP 145/68 HR 59 RR 18 O2 94% on RA
GENERAL: NAD, pleasant elderly woman  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: Supple 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: nondistended nontender in all quadrants, obese 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose, tree barking of lower extremity 
bilateral, covered in stockings. 
NEURO: CN II-XII grossly intact  
SKIN: warm, dry, intact
 
Pertinent Results:
ADMISSION LABS: 
=================================
___ 10:11AM BLOOD WBC-4.2 RBC-3.99 Hgb-12.1 Hct-38.9 MCV-98 
MCH-30.3 MCHC-31.1* RDW-14.5 RDWSD-51.8* Plt Ct-87*
___ 07:50AM BLOOD ___ PTT-32.0 ___
___ 07:50AM BLOOD Glucose-95 UreaN-73* Creat-7.5*# Na-145 
K-5.1 Cl-106 HCO3-21* AnGap-23*
___ 07:50AM BLOOD Calcium-8.8 Phos-7.2* Mg-2.0

IMAGING: 
=================================
___ AV FISTULOGRAM
  
1. Complete thrombosis of the left upper extremity AV graft to 
the level of 
the outflow vein. 
2. Outflow vein stenosis within the previously placed stent with 
improvement 
following angioplasty to 8 mm. 
3. Satisfactory appearance of the arterial anastomosis. 
  
IMPRESSION:  
  
Satisfactory restoration of flow following chemical and 
mechanical 
thrombolysis with a good angiographic and clinical result. 

DISCHARGE LABS: 
=================================
___ 07:45AM BLOOD WBC-3.1* RBC-3.45* Hgb-11.4 Hct-32.9* 
MCV-95 MCH-33.0* MCHC-34.7 RDW-14.3 RDWSD-49.6* Plt Ct-71*
___ 07:45AM BLOOD Glucose-64* UreaN-89* Creat-9.2* Na-137 
K-5.4* Cl-99 HCO3-18* AnGap-25*
___ 07:45AM BLOOD Calcium-8.6 Phos-6.9* Mg-2.___ with a history of ESRD (on HD ___, HCV, who presented 
with clotted fistula, now patent s/p ___, who stayed overnight 
for HD before discharge. 

ACTIVE PROBLEMS:
===================================

#CLOTTED FISTULA
Now s/p fistulogram with mechanical and chemical thrombectomy, 
no complications, patent now, was clotted off before and patient 
couldn't have HD on ___. Had HD ___. 

#ESRD
Secondary to DM2 (although DM2 is now diet controlled). HD on 
___.- CONTINUED home Vitamin D 1000 UNIT PO DAILY, Calcitriol 
0.25 mcg PO DAILY, Nephrocaps 1 CAP PO DAILY - CONTINUED home 
Torsemide 20 mg PO DAILY ON NON HD DAYS THSS 

STABLE/CHRONIC PROBLEMS:
===================================

#HYPOTHYROIDISM
- CONTINUED Levothyroxine Sodium 100 mcg PO DAILY 

#PREVENTION:
- CONTINUED Aspirin 81 mg PO DAILY 

#CHRONIC PAIN
- CONTINUED Methadone (Oral Solution)  2 mg/1 mL 115 mg PO DAILY 

- CONTINUED Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
- CONTINUED Lidocaine 5% Patch 1 PTCH TD QPM 

#HYPERTENSION
- CONTINUED Felodipine 5 mg PO DAILY 

#RASH
- CONTINUED ammonium lactate 12 % topical BID 
- CONTINUED Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID 
rash

#DIARRHEA
- CONTINUED LOPERamide 4 mg PO DAILY:PRN diarrhea 

TRANSITIONAL ISSUES:
===================================
o Received dialysis on ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Calcitriol 0.25 mcg PO DAILY 
3. Nephrocaps 1 CAP PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Methadone (Oral Solution)  2 mg/1 mL 115 mg PO DAILY 
7. Torsemide 20 mg PO DAILY ON NON HD DAYS THSS 
8. lactobacillus combination ___ billion cell oral TID 
W/MEALS 
9. Felodipine 5 mg PO DAILY 
10. ammonium lactate 12 % topical BID 
11. Lidocaine 5% Patch 1 PTCH TD QPM 
12. LOPERamide 4 mg PO DAILY:PRN diarrhea 
13. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID rash 
14. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  ammonium lactate 12 % topical BID  
3.  Aspirin 81 mg PO DAILY  
4.  Calcitriol 0.25 mcg PO DAILY  
5.  Felodipine 5 mg PO DAILY  
6.  lactobacillus combination ___ billion cell oral TID 
W/MEALS  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Lidocaine 5% Patch 1 PTCH TD QPM  
9.  LOPERamide 4 mg PO DAILY:PRN diarrhea  
10.  Methadone (Oral Solution)  2 mg/1 mL 115 mg PO DAILY  
11.  Nephrocaps 1 CAP PO DAILY  
12.  Torsemide 20 mg PO DAILY ON NON HD DAYS THSS  
13.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID rash  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
- Clotted fistula
- End stage renal disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU WERE ADMITTED:
- Your fistula was clogged, so you could not have dialysis

WHAT WAS DONE: 
- We unclogged your fistula and did dialysis

WHAT YOU SHOULD DO: 
- Go to dialysis as you were
- Follow up with your doctor appointments below
- ___ you feel heart palpitations, faint, weak, fevers, or 
chills, seek medical care

It was a pleasure taking care of you,
Your ___ Team

 
Followup Instructions:
___